data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1342,1472,[CH3:13][c:14]1[o:15][c:16](=[O:17])[c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]1([CH3:13])[O:15][C:16](=[O:17])[C:18]2([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:25]1[CH3:26],water,298.15,30.25313728962938,5.4934514280415785
4445,5077,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,22.68708252664069,-17.22818889836202
2260,2505,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][c:25]1[nH+:26][c-:27]([C:28]#[N:29])[c:30](=[O:31])[o:32]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:25]1([CH3:24])[NH:26][C:27]2([C:28]#[N:29])[C:30](=[O:31])[O:32]1,water,298.15,28.43066048015313,-7.844799142934621
2749,3055,[CH3:15][C:16](=[O:17])[C-:18]([N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:18]([C:16]([CH3:15])=[O:17])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:19]=[C:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,20.00409108763345,-53.889589340318594
448,490,[CH3:12][NH:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[NH-:19].[CH3:1][O:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[CH:16]([C:14]([NH:13][CH3:12])=[O:15])[N:17]([CH3:18])[NH:19]2,water,298.15,14.97696169179484,-38.16147114098664
2039,2264,[CH3:16][O:17][C:18](=[O:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[N+:25]([CH3:26])=[CH:27][C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3]1([CH3:4])[C:5]#[C:6][C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]2=[C:6]([C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([O:17][CH3:16])=[O:19])([C:21](=[O:22])[O:23][CH3:24])[N:25]([CH3:26])[CH:27]2[C:28]([CH3:29])=[O:30],water,298.15,16.247166939656406,-47.68732395420137
4453,5085,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,24.47682724430388,-21.982562749547096
4740,5413,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C-:16]([C:17]#[N:18])[N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:16]([CH3:15])([C:17]#[N:18])[N:19]=[C:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,8.720095106611089,-28.39052032097604
1640,1811,[CH3:14][NH:15][C:16](=[O:17])[N-:18][NH+:19]=[C:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:20]([C:21]([CH3:22])=[O:23])([C:24](=[O:25])[O:26][CH3:27])[NH:19][N:18]2[C:16]([NH:15][CH3:14])=[O:17],water,298.15,43.08587681799505,-2.57264038808331
1554,1720,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[NH+:25]=[CH:26][C:27]#[N:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]#[N:24])[NH:25][CH:26]2[C:27]#[N:28],water,298.15,17.866820315035067,-17.870218993965253
4834,5516,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[c:19]1[nH+:20][c-:21]([C:22]#[N:23])[c:24](=[O:25])[o:26]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]1([C:22]#[N:23])[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[O:26][C:24]1=[O:25],water,298.15,25.369295343204907,9.06098270030265
